US08053456B2
A flask was charged with 6-ethyl-3,5-dimethoxy-pyridine-2-carboxylic acid hydrazide (34 mg; 0.15 mmol), 5-isothiocyanato-1-methyl-1H-indole (28 mg; 0.15 mmol) and ethanol (2 mL) and the mixture was heated at reflux for three hours. The reaction was then cooled, and the precipitate was filtered and dried to give N-[6-Ethyl-3,5-dimethoxy-pyridine-2-carboxamidyl]-N′-(1-Methyl-1H-indol-5-yl)-thiourea (44 mg; 0.11 mmol).

reactant | 6-ethyl-3,5-dimethoxy-pyridine-2-carboxylic acid hydrazide | 0.15 mmol, 34 mg | C(C)C1=C(C=C(C(=N1)C(=O)NN)OC)OC | C10H15N3O3
reactant | 5-isothiocyanato-1-methyl-1H-indole | 0.15 mmol, 28 mg | N(=C=S)C=1C=C2C=CN(C2=CC1)C | C10H8N2S
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[6-Ethyl-3,5-dimethoxy-pyridine-2-carboxamidyl]-N′-(1-Methyl-1H-indol-5-yl)-thiourea | 0.11 mmol, 44 mg | C(C)C1=C(C=C(C(=N1)C(=O)NNC(=S)NC=1C=C2C=CN(C2=CC1)C)OC)OC | C20H23N5O3S
